data/oMe_Silver.jsonl
{"reaction_id": "NR-229_1-c1ccc(C(F)(F)F)cc1_2-C_3-C(=O)OC_4-c1ccc(OC)cc1_5-c1ccsc1","level": "medium","name": "Prins Reaction","reactants_smiles": ["O=C(c1ccc(C(F)(F)F)cc1)(C)","C(C(=O)OC)=C(c1ccc(OC)cc1)(c1ccsc1)","O"],"products_smiles": ["C([OH])(c1ccc(OC)cc1)(c1ccsc1)C(C(=O)OC)(C(O)(c1ccc(C(F)(F)F)cc1)(C))"],"conditions": "acidic conditions","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=[OH+])(c1ccc(C(F)(F)F)cc1)(C)","step_weight": 0,"rationale": "Protonation of the carbonyl oxygen increases the electrophilicity of the carbonyl carbon via resonance and inductive effects, making it more susceptible to nucleophilic attack by the alkene."},{"step": 2,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "[C+](c1ccc(OC)cc1)(c1ccsc1)C(C(=O)OC)(C(O)(c1ccc(C(F)(F)F)cc1)(C))","step_weight": 0,"rationale": "The electron-rich alkene attacks the activated carbonyl carbon, forming a carbocation stabilized by adjacent substituents and the oxygen atom through inductive and hyperconjugative effects."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C([OH2+])(c1ccc(OC)cc1)(c1ccsc1)C(C(=O)OC)(C(O)(c1ccc(C(F)(F)F)cc1)(C))","step_weight": 0,"rationale": "Water, abundant under acidic conditions, acts as a nucleophile and attacks the carbocation center, favored by the high electrophilicity and lack of steric hindrance at that position."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([OH])(c1ccc(OC)cc1)(c1ccsc1)C(C(=O)OC)(C(O)(c1ccc(C(F)(F)F)cc1)(C))","step_weight": 0,"rationale": "Deprotonation of the oxonium intermediate restores neutrality, driven by the stability of the neutral alcohol and the presence of a suitable base in the medium."}],"description": "Under acidic conditions, the carbonyl is protonated to enhance electrophilicity, enabling the alkene to attack and form a carbocation. Water then adds to the carbocation, and final deprotonation yields the Prins reaction product with hydroxyl substitution."}
{"reaction_id": "NR-323_1-CCCC(C)C_2-C(C)(C)C_3-CC_4-CCCC(C)C_5-C(F)(F)F_6-c1ccccc1","level": "easy","name": "Wittig Rearrangement-[2,3]","reactants_smiles": ["C(CCCC(C)C)(C(C)(C)C)=C(CC)C(CCCC(C)C)(C(F)(F)F)OCc1ccccc1","CCCC[Li]"],"products_smiles": ["OC(c1ccccc1)C(CCCC(C)C)(C(C)(C)C)C(CC)=C(CCCC(C)C)(C(F)(F)F)"],"conditions": "1. Strong Base (e.g., n-BuLi); 2. H2O","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CCCC(C)C)(C(C)(C)C)=C(CC)C(CCCC(C)C)(C(F)(F)F)O[CH-]c1ccccc1","step_weight": 0,"rationale": "n-BuLi, a strong base, abstracts the relatively acidic α-proton adjacent to oxygen due to inductive electron withdrawal and stabilization of the resulting alkoxide by oxygen."},{"step": 2,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "[O-]C(c1ccccc1)C(CCCC(C)C)(C(C)(C)C)C(CC)=C(CCCC(C)C)(C(F)(F)F)","step_weight": 0,"rationale": "The alkoxide undergoes a [2,3]-sigmatropic rearrangement, favored by orbital symmetry and relief of electron density through concerted bond reorganization, forming a more stable carbon–carbon bond adjacent to oxygen."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "OC(c1ccccc1)C(CCCC(C)C)(C(C)(C)C)C(CC)=C(CCCC(C)C)(C(F)(F)F)","step_weight": 0,"rationale": "Aqueous workup protonates the alkoxide intermediate, driven by the strong thermodynamic preference for neutral alcohol formation in protic conditions."}],"description": "A strong base deprotonates the α-position to oxygen, generating an alkoxide that undergoes a concerted [2,3]-sigmatropic rearrangement. This rearrangement shifts the carbon framework, forming a new C–C bond. Subsequent protonation yields the rearranged alcohol product."}
